US04900743
2,4-Dihydro-4-methyl-5-(4-pyridyl)-3H-1,2,4-triazole-3-thione
1-(4-Pyridoyl)-4-methylthiosemicarbazide (10.4 g, 4.97×10-2 mole) and 1 molar aqueous NaHCO3 (480 ml, 4.80×10-1 mole) were stirred and heated to reflux. After refluxing overnight, the reaction was cooled in an ice bath before being acidified by the dropwise addition of concentrated hydrochloric acid (40 ml, 4.8×10-1 mole). The product was collected by filtration and dried by suction.

reactant | 1-(4-Pyridoyl)-4-methylthiosemicarbazide | 4.97×10-2 mole, 10.4 g | N1=CC=C(C=C1)C(=O)NNC(=S)NC | C8H10N4OS
reactant | NaHCO3 | 4.80×10-1 mole, 1 molar, 480 ml | C(=O)(O)[O-].[Na+]
reactant | hydrochloric acid | 4.8×10-1 mole, 40 ml | Cl | ClH
product | 2,4-Dihydro-4-methyl-5-(4-pyridyl)-3H-1,2,4-triazole-3-thione | CN1C(NN=C1C1=CC=NC=C1)=S | C8H8N4S
